US07592365B2
A suspension of 0.07 g (0.304 mmol) of ethyl 4-(4-aminophenyl)-1H-pyrrole-3-carboxylate in 10 cm3 of a 22% aqueous ammonium hydroxide solution is heated in an autoclave at a temperature in the region of 80° C. for 84 hours. After stopping the heating and then returning to ambient temperature and pressure, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give an orange solid which is purified by flash chromatography [eluent: dichloromethane/methanol/acetonitrile (98/1/1 by volume)]. After concentrating the fractions under reduced pressure, a residue is obtained which is stirred in 10 cm3 of diethyl ether and then filtered and dried under reduced pressure (2.7 kPa) to give 0.02 g of 4-(4-aminophenyl)-1H-pyrrole-3-carboxamide, in the form of a brown solid: EI: m/z=201 (M+) base peak, m/z=185 (M−NH2+), m/z=157 (M-CONH2+).

reactant | ethyl 4-(4-aminophenyl)-1H-pyrrole-3-carboxylate | 0.304 mmol, 0.07 g | NC1=CC=C(C=C1)C=1C(=CNC1)C(=O)OCC | C13H14N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | diethyl ether | 10 cm3 | C(C)OCC | C4H10O
product | 4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 0.02 g | NC1=CC=C(C=C1)C=1C(=CNC1)C(=O)N | C11H11N3O
